US04360530
According to the procedure described in Example 1, from 30 g of 3-(o-chlorophenyl)-2,2-dimethyl-2H-azirine and 24 g of p-(dimethylamino)benzaldehyde there was obtained 4-(o-chlorophenyl)-5-[p-(dimethylamino)phenyl]-2,2-dimethyl-3-oxazoline which melted at 72.5°-73.5° C. after drying for 4 hours at 35° C. and 13 Torr.

reactant | 3-(o-chlorophenyl)-2,2-dimethyl-2H-azirine | 30 g | ClC1=C(C=CC=C1)C=1C(N1)(C)C | C10H10ClN
reactant | p-(dimethylamino)benzaldehyde | 24 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
product | 4-(o-chlorophenyl)-5-[p-(dimethylamino)phenyl]-2,2-dimethyl-3-oxazoline | ClC1=C(C=CC=C1)C1=NC(OC1C1=CC=C(C=C1)N(C)C)(C)C | C19H21ClN2O
